US07601850B2
A. (5-{1-[4-(4,4-Dimethyl-3-oxo-pentyl)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-thiophene-2-sulfonylamine)-acetic acid methyl ester
Using the pyridinium dichromate oxidation analogous to Example 139C, (5-{1-ethyl-1-[4-(3-hydroxy-4,4-dimethyl-pentyl)-3-methyl-phenyl]-propyl}-3-methyl-thiophene-2-sulfonylamine)-acetic acid methyl ester gives the title compound (96%). 1H NMR (CDCl3) δ 6.96, 7.02 (m, 3H), 6.59 (s, 1H), 5.22 (t, 1H), 3.83 (d, 1H, J=5.7 Hz), 3.65 (s, 3H), 2.82 (t, 2H), 2.72 (t, 2H), 2.40 (s, 3H), 2.27 (s, 3H), 2.07 (m, 4H), 1.10 (s, 9H), 0.68 (t, 6H);

reactant | pyridinium dichromate | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | (5-{1-ethyl-1-[4-(3-hydroxy-4,4-dimethyl-pentyl)-3-methyl-phenyl]-propyl}-3-methyl-thiophene-2-sulfonylamine)-acetic acid methyl ester | COC(C)=O.C(C)C(CC)(C1=CC(=C(C=C1)CCC(C(C)(C)C)O)C)C1=CC(=C(S1)S(=O)(=O)N)C
product | (5-{1-[4-(4,4-Dimethyl-3-oxo-pentyl)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-thiophene-2-sulfonylamine)-acetic acid methyl ester | 96% | COC(C)=O.CC(C(CCC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(S1)S(=O)(=O)N)C)C)=O)(C)C | InChI=1S/C24H35NO3S2.C3H6O2/c1-8-24(9-2,21-15-17(4)22(29-21)30(25,27)28)19-12-10-18(16(3)14-19)11-13-20(26)23(5,6)7;1-3(4)5-2/h10,12,14-15H,8-9,11,13H2,1-7H3,(H2,25,27,28);1-2H3
